US07897607B2
2-(Dipropylamino)-5-(2-fluoro-4-methoxyphenyl)-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
To a solution of 2-(dipropylamino)-5-(2-fluoro-4-hydroxyphenyl)-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (30 mg, 0.0805 mmol) in N,N-dimethylformamide (0.5 ml) were added sodium hydride (66% dispersion in oil; 3.2 mg, 0.0886 mmol) and iodomethane (0.006 ml, 0.0886 ml) at 0° C., and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was diluted with ice-cold water and extracted with ethyl acetate (×1). The organic layer was washed with water (×1) and brine (×1), dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with a 20% hexane/ethyl acetate mixture. The desired fractions were concentrated in vacuo to give 23 mg (74%) of the title compound as an oil.

reactant | 2-(dipropylamino)-5-(2-fluoro-4-hydroxyphenyl)-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.0805 mmol, 30 mg | C(CC)N(C=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2)O)F)C)=O)C)CCC | C20H25FN4O2
reactant | sodium hydride | 0.0886 mmol, 3.2 mg | [H-].[Na+]
reactant | iodomethane | 0.006 ml | IC | CH3I
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 2-(Dipropylamino)-5-(2-fluoro-4-methoxyphenyl)-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 23 mg, 74% | C(CC)N(C=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2)OC)F)C)=O)C)CCC | C21H27FN4O2
